US09376422B2
Methyl 3-{[(2R,6R)-1-benzyl-2,6-dimethylpiperidin-4-yl]amino}-5-fluoro-2-methylbenzoate
To a stirred solution of methyl 3-amino-5-fluoro-2-methylbenzoate (520 mg, 2.84 mmol) in THF (20 mL) and TFA (813 uL) was added (2R,6S)-1-benzyl-2,6-dimethylpiperidin-4-one (679 mg, 3.12 mmol) at 0° C. The mixture was stirred at 60° C. for 1 hour under nitrogen atmosphere. Then the mixture was cooled to 0° C. in an ice bath, sodium triacetoxyborohydride (1.27 g, 5.68 mmol) was added. The reaction mixture was stirred at rt for 2 hours. Then aq. NaHCO3 was added at 0° C. until pH8-9, and the content was extracted with ethylacetate. The organic layer was dried over MgSO4 and filtered. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (NH—SiO2; heptane/ethylacetate=5/1) to give titled compound as a colorless oil (331 mg, 30% yield.). 1H-NMR (400 MHz, CDCl3) δppm; 7.35-7.39 (m, 2H), 7.27-7.30 (m, 2H), 7.21-7.26 (m, 1H), 6.76 (dd, J=2.4, 9.2 Hz, 1H), 6.45 (dd, J=2.4, 11.2 Hz, 1H), 3.94 (d, J=14.4 Hz, 1H), 3.87 (s, 3H), 3.58-3.65 (m, 2H), 3.46 (d, J=14.4 Hz, 1H), 3.06-3.12 (m, 1H), 2.94-3.01 (m, 1H), 2.21 (s, 3H), 2.02-2.07 (m, 1H), 1.82-1.89 (m, 1H), 1.15-1.22 (m, 1H), 1.12 (d, J=6.0 Hz, 3H), 1.09 (d, J=7.2 Hz, 3H).

reactant | methyl 3-amino-5-fluoro-2-methylbenzoate | 2.84 mmol, 520 mg | NC=1C(=C(C(=O)OC)C=C(C1)F)C | C9H10FNO2
reactant | (2R,6S)-1-benzyl-2,6-dimethylpiperidin-4-one | 3.12 mmol, 679 mg | C(C1=CC=CC=C1)N1[C@@H](CC(C[C@@H]1C)=O)C | C14H19NO
reactant | sodium triacetoxyborohydride | 5.68 mmol, 1.27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | TFA | 813 uL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Methyl 3-{[(2R,6R)-1-benzyl-2,6-dimethylpiperidin-4-yl]amino}-5-fluoro-2-methylbenzoate | 331 mg, 30% yield | C(C1=CC=CC=C1)N1[C@@H](CC(C[C@H]1C)NC=1C(=C(C(=O)OC)C=C(C1)F)C)C | C23H29FN2O2
